US07319102B1
Preparation of 2-(2-chlorophenyl)-1-[7-(4-fluorophenyl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-ethanone (30):
To a round bottom flask equipped with a condenser is added Mg powder (0.35 g, 0.02 mmol) and diethyl ether (10 mL). 2-Chlorobenzyl bromide (0.10 mL, 0.76 mmol) and a catalytic amount of 1,2-dibromoethane (5 μL) is added to the reaction mixture. After an initial exotherm, the reaction solution develops a yellow color. 7-(4-Fluoro-phenyl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid methoxy-methyl-amide, 29, (0.22 g, 0.63 mmol) is dissolved in THF (10 mL) and the Grignard reagent is then carefully transferred dropwise using a cannula using nitrogen to initiate and continue the transfer. The mixture is allowed to stir at room temperature for 2 hours after which the magnesium is removed by filtration and the filtrate concentrated in vacuo. The residue is purified by preparative HPLC to afford 64 mg of the desired product as a pale colored solid: 1H NMR (300 MHz, CDCl3) δ 9.02 (s, 1H), 7.60 (s, 1H), 7.42-7.38 (m, 1H), 7.37-7.22 (m, 5H), 7.18 (t, J=8.7 Hz, 2H), 4.40 (s, 2H), 2.44 (s, 3H); ESI+ MS: m/z (rel intensity) 411.9 (100, M++H).

reactant | 2-Chlorobenzyl bromide | 0.76 mmol, 0.10 mL | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
reactant | 1,2-dibromoethane | 5 μL | BrCCBr | C2H4Br2
reactant | 7-(4-Fluoro-phenyl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid methoxy-methyl-amide | CON(C(=O)C1=CC2=C(N=C(N=C2)SC)N1C1=CC=C(C=C1)F)C | C16H15FN4O2S
reactant | magnesium | [Mg] | Mg
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 2-(2-chlorophenyl)-1-[7-(4-fluorophenyl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-ethanone | 64 mg | ClC1=C(C=CC=C1)CC(=O)C1=CC2=C(N=C(N=C2)SC)N1C1=CC=C(C=C1)F | C21H15ClFN3OS
